US07973181B2
Stage 2: (S)-2-Acetylamino-3-p-tolyl-propionic acid cyclopentyl ester
To (S)-2-Amino-3-p-tolyl-propionic acid cyclopentyl ester p-toluenesulfonic acid salt prepared in the above stage (10 g, 0.022 mol) was added dichloromethane 200 ml) under nitrogen. Triethylamine (6.29 ml, 0.044 mol) was added dropwise with stirring. Acetyl chloride (1.72 ml, 0.022 mol) in dichloromethane (50 ml) was added dropwise to the reaction. Acetyl chloride (0.1 ml) in DCM (0.5 ml) was added after 20 mins and the reaction reached completion after 1 hr. The organic phase was washed with saturated sodium bicarbonate (3×200 ml), dried (Na2SO4) and the solvent removed in vacuo. The required product was obtained 6.62 g, 93% yield and was used in the next step without further purification. m/z 321 [M++H]+

reactant | (S)-2-Amino-3-p-tolyl-propionic acid cyclopentyl ester p-toluenesulfonic acid salt | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(CCCC1)OC([C@H](CC1=CC=C(C=C1)C)N)=O
reactant | Triethylamine | 0.044 mol, 6.29 ml | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 0.022 mol, 1.72 ml | C(C)(=O)Cl | C2H3ClO
reactant | Acetyl chloride | 0.1 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (S)-2-Acetylamino-3-p-tolyl-propionic acid cyclopentyl ester | 93% yield | C1(CCCC1)OC([C@H](CC1=CC=C(C=C1)C)NC(C)=O)=O | C17H23NO3
